US04992463
C. 8-(Fmoc-amino)-octanoic acid
Fmoc-Asp-2-(4-methoxyphenyl)ethyl amide from B (8 mmoles) was coupled with Sasrin resin (7 g; 0.7 mmole OH/g resin) in N,N-dimethylformamide (DMF) (50 ml) with dicyclohexylcarbodiimide (8 mmoles) and 4-dimethylamino-pyridine (0.5 g). The reaction was carried out overnight after which the resin was washed with DMF (5 x 40 ml) and CH2Cl2 (2 x 20 ml). The substitution was found to be 0.326 mmole Asp/g resin by amino acid analysis.

reactant | Fmoc-Asp 2-(4-methoxyphenyl)ethyl amide | N([C@@H](CC(O)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12.COC1=CC=C(C=C1)CC[NH-]
reactant | dicyclohexylcarbodiimide | 8 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Asp | 0.326 mmole | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylamino-pyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 8-(Fmoc-amino)-octanoic acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCCCCCCCC(=O)O | C23H27NO4
